US05621131
A Grignard reagent prepared from 0.72 g (30 mmol) of magnesium turnings and 5.1 ml (30 mmol) of 2-bromobiphenyl in 15 ml of diethyl ether is added dropwise over the course of 2 hours while stirring (in an ultrasonic bath) to a boiling suspension of 10.0 g (29.6 mmol) of 2,7-dibromo-9-fluorenone in 1 00 ml of dry diethyl ether. After addition is complete, the mixture is boiled for a further 3 hours. After cooling overnight, the precipitate formed is filtered off with suction and washed with cold ether. The magnesium complex filtered off is hydrolyzed in a solution of 15 g of ammonium chloride in 250 ml of ice water. After 1 hour, the 9-(2-biphenylyl)-2,7-dibromo-9-fluorenol formed is filtered off with suction, washed with water and sucked dry. For the ring closure reaction, the dried fluorenol is boiled in 100 ml of glacial acetic acid, after addition of 3 drops of concentrated hydrochloric acid, for 6 hours. The mixture is allowed to crystallize overnight, the product formed is filtered off with suction and washed with glacial acetic acid and water.

reactant | magnesium | 30 mmol, 0.72 g | [Mg] | Mg
reactant | 2-bromobiphenyl | 30 mmol, 5.1 ml | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | 2,7-dibromo-9-fluorenone | 29.6 mmol, 10.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)=O | C13H6Br2O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 9-(2-biphenylyl)-2,7-dibromo-9-fluorenol | C1(=C(C=CC=C1)C1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)O)C1=CC=CC=C1 | C25H16Br2O
